US08865712B2
g) N—[(R)-1-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-acetamide
To a solution of (R)-2-amino-2-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-3,3-difluoro-propan-1-ol (2.15 g, 5.38 mmol) in dichloromethane (14.55 ml) was added an aq. sodium carbonate solution (14.55 ml, 10% aq. solution) at 0° C. 2-Chloroacetyl chloride (0.518 ml, 6.46 mmol) was added dropwise at 0° C. and the ice bath was removed after the addition. The reaction mixture was stirred at rt for 15 min. Methanol was added and the reaction mixture was stirred at 50° C. for 10 min. The reaction mixture was diluted with dichloromethane and water. The mixture was extracted with dichloromethane, dried over sodium sulfate, filtered and evaporated. The crude light yellow oil (2.91 g) was chromatographed over silica gel (40 g redisep column, cyclohexane/ethyl acetate 10-70%) to give the title compound. 2.32 g (91% yield).

reactant | (R)-2-amino-2-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-3,3-difluoro-propan-1-ol | 5.38 mmol, 2.15 g | N[C@](CO)(C(F)F)C1=NC(=CC(=C1F)[Si](CC)(CC)CC)Br | C14H22BrF3N2OSi
reactant | sodium carbonate | 14.55 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-Chloroacetyl chloride | 6.46 mmol, 0.518 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 14.55 ml | ClCCl | CH2Cl2
product | N—[(R)-1-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-acetamide | 91% yield | BrC1=CC(=C(C(=N1)[C@](C(F)F)(CO)NC(CCl)=O)F)[Si](CC)(CC)CC | C16H23BrClF3N2O2Si
